US07494993B2
3-(2-Chloro-5-nitro-phenyl)-1-methyl-7-methylsulfanyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
20.796 g {5-[(2-Chloro-5-nitro-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl}-methyl-amine were dissolved in 500 ml acetonitrile, 25.375 g potassium carbonate and 19.847 g N,N-carbonyldiimidazole (CDI) were added, and the solution was heated at 50° C. for 24 hrs. The solvent was dried over sodium sulfate, evaporated, and the residue was extracted with diethyl ether to give the title product in 96% yield.

reactant | {5-[(2-Chloro-5-nitro-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl}-methyl-amine | 20.796 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])NCC=1C(=NC(=NC1)SC)NC | C13H14ClN5O2S
reactant | potassium carbonate | 25.375 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-carbonyldiimidazole | 19.847 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 3-(2-Chloro-5-nitro-phenyl)-1-methyl-7-methylsulfanyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 96% yield | ClC1=C(C=C(C=C1)[N+](=O)[O-])N1C(N(C2=NC(=NC=C2C1)SC)C)=O | C14H12ClN5O3S
